US07495103B2
Sodium hydroxide solution (10%, 15 mL) was added slowly to a stirred suspension of (3-nitro-phenyl)-hydrazine hydrochloride salt (B-4-a) (1.89 g, 10 mmol) in ethanol (20 mL) until pH 6. Acetic acid (5 mL) was added to the mixture followed by propionaldehyde (0.7 g, 12 mmol). After stirring for 3 h at room temperature, the mixture was poured into ice-water and the resulting precipitate was isolated via filtration, washed with water and dried in air to obtain N-(3-nitro-phenyl)-N′-propylidene-hydrazine, which was used directly in the next step.

reactant | Sodium hydroxide | 15 mL | [OH-].[Na+]
reactant | (3-nitro-phenyl)-hydrazine hydrochloride salt | 10 mmol, 1.89 g | Cl.[N+](=O)([O-])C=1C=C(C=CC1)NN
reactant | Acetic acid | 5 mL | C(C)(=O)O | C2H4O2
reactant | propionaldehyde | 12 mmol, 0.7 g | C(CC)=O | C3H6O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | N-(3-nitro-phenyl)-N′-propylidene-hydrazine | [N+](=O)([O-])C=1C=C(C=CC1)NN=CCC | C9H11N3O2
